US07314888B1
To a solution of 17 g of 2-(2-isobutoxyphenyl)ethanal in 170 ml of acetonitrile, 29 g of sodium dihydrogenphosphate dissolved in 200 ml of water and subsequently 15 g of 30% aqueous hydrogen peroxide are added, and further 16 g of sodium chlorite dissolved in 80 ml of water is dropwise added, and the mixture thus obtained is stirred at ambient temperature for one hour. Ethyl acetate and water added to the reaction mixture, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is mixed with 22 g of potassium carbonate and 200 ml of N,N-dimethylformamide. While cooling the mixture with ice water, 19 g of iodomethane is added, and the mixture thus obtained is stirred at ambient temperature for 30 minutes. Ethyl acetate and water are added to the reaction mixture, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; hexane:ethyl acetate=10:1) to obtain 10.4 g of methyl 2-(2-isobutoxyphenyl)acetate as a colorless oily product.

reactant | 2-(2-isobutoxyphenyl)ethanal | 17 g | C(C(C)C)OC1=C(C=CC=C1)CC=O | C12H16O2
reactant | sodium dihydrogenphosphate | 29 g | P(=O)(O)(O)[O-].[Na+]
reactant | hydrogen peroxide | 15 g | OO | H2O2
reactant | sodium chlorite | 16 g | Cl(=O)[O-].[Na+]
reactant | potassium carbonate | 22 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 19 g | IC | CH3I
solvent | acetonitrile | 170 ml | C(C)#N | C2H3N
solvent | water | 200 ml | O | H2O
solvent | water | 80 ml | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | methyl 2-(2-isobutoxyphenyl)acetate | 10.4 g | C(C(C)C)OC1=C(C=CC=C1)CC(=O)OC | C13H18O3
